US05234928
In 30 ml of carbon tetrachloride were refluxed 3.5 g of ethyl 1-(3,4-dichlorophenyl)methyl-1,4-dihydro-2,4-dioxo-6-methyl-3(2H)-quinazolineacetate, 1.66 g of N-bromosuccinimide and calalytic amount of benzoyl peroxide for 2 hours. The insolubles were filtered off and the filtrate was concentrated. Ether was added to the residue for crystallization and the crystals thus obtained were recrystallized from acetonitrile to obtain 2.0 g of ethyl 6-bromomethyl-1 -(3,4-dichlorophenyl)methyl-1,4-dihydro-2,4-dioxo-3(2H)-quinazolineacetate. m.p. 128°-129° C.

reactant | ethyl 1-(3,4-dichlorophenyl)methyl-1,4-dihydro-2,4-dioxo-6-methyl-3(2H)-quinazolineacetate | 3.5 g | ClC=1C=C(C=CC1Cl)CN1C(N(C(C2=CC(=CC=C12)C)=O)CC(=O)OCC)=O | C20H18Cl2N2O4
reactant | N-bromosuccinimide | 1.66 g | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | benzoyl peroxide | C(C1=CC=CC=C1)(=O)OOC(C1=CC=CC=C1)=O | C14H10O4
solvent | carbon tetrachloride | 30 ml | C(Cl)(Cl)(Cl)Cl | CCl4
product | ethyl 6-bromomethyl-1 -(3,4-dichlorophenyl)methyl-1,4-dihydro-2,4-dioxo-3(2H)-quinazolineacetate | 2.0 g | BrCC=1C=C2C(N(C(N(C2=CC1)CC1=CC(=C(C=C1)Cl)Cl)=O)CC(=O)OCC)=O | C20H17BrCl2N2O4
